US07598393B2
Step A. 1-{[(4-Bromo-2-nitrophenyl)amino]methyl}cyclopentanol
The mixture of 2,5-dibromonitrobenzene (Tokyo Kasei Kogyo Co., Ltd., 5.4 g, 19.2 mmol), 1-(aminomethyl)cyclopentanol hydrochloride (J. Med. Chem. 1981, 24, 12-16, 4.3 g, 28.4 mmol) and N,N-diisopropylethylamine (8.4 mL, 48.1 mmol) in 1-methyl-2-pyrrolidinone (32 mL) was microwaved for 30 min at 200° C. The reaction was quenched with water and extracted three times with ethyl acetate. The combined organic layers were dried over sodium sulfate and filtered. The filtrate was concentrated and the residue was purified by column chromatography on silica gel (hexane:ethyl acetate=5:1 as eluent) to afford the title compound (2.6 g, 43%) as an orange amorphous solid.

reactant | 2,5-dibromonitrobenzene | 19.2 mmol, 5.4 g | BrC1=C(C=C(C=C1)Br)[N+](=O)[O-] | C6H3Br2NO2
reactant | 1-(aminomethyl)cyclopentanol hydrochloride | 28.4 mmol, 4.3 g | Cl.NCC1(CCCC1)O
reactant | N,N-diisopropylethylamine | 48.1 mmol, 8.4 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1-methyl-2-pyrrolidinone | 32 mL | CN1C(CCC1)=O | C5H9NO
product | 1-{[(4-Bromo-2-nitrophenyl)amino]methyl}cyclopentanol | 2.6 g, 43% | BrC1=CC(=C(C=C1)NCC1(CCCC1)O)[N+](=O)[O-] | C12H15BrN2O3
